US07598377B2
8-trifluoromethanesulfonyloxy-2-(4-pyridinyl)-4H-1-benzopyran-4-one
To a mixture of 8-hydroxy-2-(4-pyridinyl)-4H-1-benzopyran4-one (10 mg) in acetonitrile (2 ml) was added diisopropylethylamine (20 uL) followed by N-phenyltriflimide (20 mg), and the mixture stirred at room temperature for 2 h. The mixture adsorbed onto silica gel and was eluted through a silica column using ethyl acetate as eluant to yield the title compound as a tan solid. (10 mg). ESI-MS: 372.1 (M+H).

reactant | 8-hydroxy-2-(4-pyridinyl)-4H-1-benzopyran4-one | 10 mg | OC1=CC=CC=2C(C=C(OC21)C2=CC=NC=C2)=O | C14H9NO3
reactant | diisopropylethylamine | 20 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-phenyltriflimide | 20 mg | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 8-trifluoromethanesulfonyloxy-2-(4-pyridinyl)-4H-1-benzopyran-4-one | FC(S(=O)(=O)OC1=CC=CC=2C(C=C(OC21)C2=CC=NC=C2)=O)(F)F | C15H8F3NO5S
